Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
flank pain dysuria
 
Major Surgical or Invasive Procedure:
Foley Catheter placement from ___

 
History of Present Illness:
Ms. ___ is a ___ yo F with PMH recurrent kidney stones and 
UTIs/pyelonephritis due to bladder reconstruction/ augmentation 
as an infant and repeat in ___ with chronic bilateral 
hydronpehrosis  presented to ___ on ___ with fever, 
bilateral flank pain and weakness found to have bilateral 
hydronephrosis without e/o acute stone. 

Ms. ___ states symptoms started ___ evening (3 days ago) 
with dysuria that progressed to chills, fever and B severe flank 
pain. +nausea and poor po intake. Denies hematuria. Was dizzy on 
standing so came to ED. 

CT a/p with B hydronephrosis. Urology reviewed CT and felt 
hydronephrosis was at baseline. Asked for PVR and foley 
placement for relief. Pt incompletely voids bladder at baseline. 
Plan to f/u for percutaneous nephrostolithotomy with ___ 
Dr. ___ next week.

Recently admitted to ___ ___ for similar 
complaints. CT a/p at that time. She was treated with 
ceftriaxone while in house and discharged with cefpodoxime to 
complete 1 week course of antibiotics. Plan was to f/u with Dr. 
___ outpatient cystoscopy and per urology consult note 
below PCNL. During the admission she had a Recent imaging 
includes MAG3 in ___, which shows adequate
drainage of both kidney after diuretic administration as well as
relatively equivalent split renal function (from urology note). 

Per Urology consult (copied from note, appreciate history):
notable urologic hx of bladder augmentation as infant, 
complicated by recurrent UTI and dysfunctional voiding due to 
insensate bladder. She underwent second bladder re-augment in 
___ with goal of removing
intestinal components from bladder and improving voiding.
Unfortunately, patient continues to suffer from recurrent UTI
despite second augment surgery. Additionally, likely as a result
of chronic dysfunctional voiding and bladder surgeries, patient
has chronic bilateral hydronephrosis.

Also has known non-obstructing right kidney stone, and is
supposed to undergo PCNL at ___ next week, then a third
bladder augment in the future as documented above.

Review of systems:  
(+) dysuria, frequency, flank pain, fever, chills, nausea, night 
sweats, weight loss after gastric sleeve
(-) Denies chest pain, SOA, syncope, confusion, rash, dysphagia, 
diarrhea, constipation, hematochezia, hematuria
10 pt ROS otherwise neg

 
Past Medical History:
Bladder reconstruction/augmentation as infant, repeat ___
Recurrent pyelonephritis and urinary tract infections
Bilateral hydronephrosis - baseline L 8.8cm, R 8.8cm

PAST SURGICAL HISTORY:  
Bladder reconstructin/augmentation infant and repeat ___
Gastric sleeve ___ at ___
 
Social History:
___
Family History:
mGM CVA
pGM CVA
T2DM and htn in family
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:  
Vitals: T: 102.8 max, current 98.3, HR 81-140, RR 28, BP 108/70, 
O2 100% RA 
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: tachy RR, S1-S2, no m/r/r/g, no edema, 2+ ___ BLE
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM, B flank pain
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: No rash or ecchymosis
Psych: Congruent affect, good judgment

Exam on discharge:
Vitals: 98.1 BP:102/66 HR:76 O2: 100RA  
Gen: NAD, well appearing in NAD
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR S1 S2 present, no m/R/g
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND
GU: No foley, no suprapubic tenderness. No CVAT
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: No rash or ecchymosis
Psych: Congruent affect, good judgment
 
Pertinent Results:
LABS:  
___
WBC 9.7, Hgb 10.9, Hct 34.2, MCV 73, Plt 167
Na 134, K 3.9, Cl 101, HCO3 19, Cr 1.4, Gluc 100
Lactate 1.2
Ca 8.6, Mag 1.6, phos 1.8
ALT 9, AST 13, ALKP 62 

Iron studies:

___ 06:10AM BLOOD calTIBC-209* Ferritn-126 TRF-161*
___ 06:10AM BLOOD Iron-10*

Labs on discharge:

___ 06:40AM BLOOD WBC-4.3 RBC-4.39 Hgb-10.2* Hct-32.3* 
MCV-74* MCH-23.2* MCHC-31.6* RDW-15.0 RDWSD-39.5 Plt ___
___ 06:40AM BLOOD Glucose-71 UreaN-13 Creat-1.0 Na-136 
K-4.6 Cl-105 HCO3-25 AnGap-11
___ 06:10AM BLOOD ALT-8 AST-11 AlkPhos-55 TotBili-0.7

 
STUDIES:  
___ CT 
1. Bilateral hydronephrosis, right greater than left with 
right-sided 
hydroureter that tapers towards the distal ureter. No 
obstructing stone is identified. 
2. Mild stranding surrounding the right kidney is nonspecific, 
but 
pyelonephritis cannot be excluded. 
3. Nonobstructing stone in the right interpolar calyx measures 
1.2cm. 
4. The spleen is top normal in size, measuring 13 cm. 

Microbiology:

___ 3:44 pm URINE      SHARED WITH ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROBACTER AEROGENES.    >100,000 CFU/mL. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER AEROGENES
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with PMH recurrent kidney stones and UTIs 
due to bladder augmentation as an infantand repeat in ___ 
presented to ___ on ___ with fever, bilateral flank 
pain and weakness in the context of bilateral hydronephrosis 
without e/o acute stone (this is likely chronic) found to have 
severe sepsis from acute pyelonephritis. 

#  Severe Sepsis
#  Acute Pyelonephritis
#  h/o of bladder augmentation and UTI with chronic
The patient presented with fever and positive U/A. Hdronephrosis 
nonspecific stranding on imaging but fever, flank pain and 
dysuria along CVA tenderness bilaterally R>L consistent with 
clinical pyelonephritis. Tachycardic to 140s on admission which 
improved to ___ with IVF and initiation of ceftriaxone. Renal 
u/s with +nonobstructing stone with stable bilateral 
hydronephrosis. The patient was seen by urology who recommended 
Foley placement. Foley was placed but then removed. The patient 
had no post-void residuals when checked. She was started on IV 
Ceftriaxone, this was changed to Cefepime when culture returned 
as enterobacter. Her symptoms improved and she was discharged on 
PO cipro to complete a 10 day course. She will follow up with 
her urologist as an outpatient.
 
#  Acute Kidney Injury on CKD Stage I-II - Cr 1.4 on admission 
with baseline 0.9 ___ with h/o recent admits 1.0-1.3. due to 
acute pyelonephritis and dehydration.
Improved with IVF to 1.0 on discharge.
 
#  Anemia - H/H 10.9, 34.2 which is which is baseline. 
+hematuria. Concerning with MCV 73 which seems to be chronically 
low. ?thalassemia. Iron studies ___ iron, low transferrin 
and normal ferritin. Transferrin saturation is %5 which is 
consistent with iron deficiency. The patient will continue her 
oral iron supplementation and should have repeat iron studies 
and consideration of IV iron as an outpatient. 

# Weight loss - successful weight loss of >100 pounds after 
gastric sleeve ___ at ___.  

Transitional issues:
- Consider additional evaluation for anemia
- Patient will follow up with her urologist for management of 
hydronephrosis

# Code status: Full  
# Contact  ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 100 mcg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Q12hrs Disp 
#*20 Tablet Refills:*0 
2.  Cyanocobalamin 100 mcg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Severe Sepsis
-Acute Pyelonephritis
-Bilateral Hydronephrosis
 
Discharge Condition:
Good
Alert and oriented x3
Ambulatory without assistance
 
Discharge Instructions:
Dear Ms ___,

You were admitted to the hospital with fevers, weakness, 
dehydration and found to have a urinary tract infection. We 
treated you with IV fluids and IV antibiotics and you improved 
steadily. When you left the hospital you were changed to an oral 
antibiotic ciprofloxacin. You should take this medication for a 
total 14 days (including the days of antibiotics you received in 
the hospital). Please follow up with your urologist as scheduled 
below.

You were also noted to be anemic while you were in the hospital. 
Please continue your iron supplements and discuss this with your 
PCP at follow up.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___